US04863801
Example 4: Preparation of latex [ethylacrylate-methyl methacrylate-glycidylmethacrylic acid]
The procedure of Example 1 was repeated, a mixture of monomers containing 250 g of ethylacrylate, 185 g of methylmethacrylate, 100 g of glycidylmethacrylate, 25 g of methacrylic acid was employed.

reactant | ethylacrylate | 250 g | C(C)OC(C=C)=O | C5H8O2
reactant | methylmethacrylate | 185 g | COC(C(=C)C)=O | C5H8O2
reactant | glycidylmethacrylate | 100 g | C(C1CO1)OC(C(=C)C)=O | C7H10O3
reactant | methacrylic acid | 25 g | C(C(=C)C)(=O)O | C4H6O2
product | ethylacrylate methyl methacrylate glycidylmethacrylic acid | C(C)OC(C=C)=O.C(C(=C)C)(=O)OC.C(C1CO1)C=C(C(=O)O)C | InChI=1S/C7H10O3.2C5H8O2/c1-5(7(8)9)2-3-6-4-10-6;1-4(2)5(6)7-3;1-3-5(6)7-4-2/h2,6H,3-4H2,1H3,(H,8,9);1H2,2-3H3;3H,1,4H2,2H3
